US07105547B2
Step 1. Preparation of 2,6-difluoro-4-isopropoxycarbonylamino-benzoic Acid Tert-butyl Ester.
2.5 M solution of BuLi in cyclohexane (19.7 mL, 49.4 mmol, 3.3 eq.) is added dropwise with stirring to a solution of above N-isopropylcarbamoyl-3,5-difluoroaniline (3.22 g, 14.97 mmol) and TMEDA (10 mL) in THF (25 mL) at −78° C. over 25 min. This resulting mixture is stirred at −78° C. for 20 min, and then ditertbutyldicarbonate (6.8 mL, 29.94 mmol, 2 eq.) is added dropwise with stirring at −78° C. over 10 min. This reaction mixture is stirred at −78° C. for 1 h, and then allowed to warm up to r.t. overnight. Sat. aq. NH4Cl (ca. 50 mL) is added, and the mixture is extracted with excess EtOAc. The combined organic phase is washed with brine and dried over Na2SO4. The solvent is removed under vacuum and the crude product purified by silica gel column chromatography (eluent: 5–10% EtOAc in hexane) to afford the title compound. 1H NMR (300 MHz, CDCl 3) δ 1.21 (d, J=6 Hz, 6H), 1.57 (s, 9H), 5.00 (q, J=6.3 Hz, 1H), 6.67–6.78 (m, 3H).

reactant | BuLi | [Li]CCCC
reactant | cyclohexane | 49.4 mmol, 19.7 mL, 3.3 eq. | C1CCCCC1 | C6H12
reactant | N-isopropylcarbamoyl-3,5-difluoroaniline | 14.97 mmol, 3.22 g | C(C)(C)NC(=O)NC1=CC(=CC(=C1)F)F | C10H12F2N2O
reactant | TMEDA | 10 mL | CN(C)CCN(C)C | C6H16N2
reactant | ditertbutyldicarbonate | 29.94 mmol, 6.8 mL, 2 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | ca. 50 mL | [NH4+].[Cl-]
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,6-difluoro-4-isopropoxycarbonylamino-benzoic Acid Tert-butyl Ester | C(C)(C)(C)OC(C1=C(C=C(C=C1F)NC(=O)OC(C)C)F)=O | C15H19F2NO4
